US06087380
c) 1-Methyl-2-[(4-amidinophenyl)methylthio]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride
1.5 g (3.0 mMol) of 1-methyl-2-[(4-cyanophenyl)methylthio]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide were stirred in 80 ml of ethanol saturated with hydrogen chloride for 6.5 hours first at 0° C., then at room temperature, until no more starting material could be detected by thin layer chromatography. Then the solvent was distilled off at a maximum bath temperature of 30° C., the oily residue taken up in 80 ml of absolute ethanol and mixed with 1.0 g (10.5 mMol) of ammonium carbonate. After 18 hours the solvent was distilled off in vacuo and the crude product obtained was purified by flash chromatography (silica gel; methylene chloride/ethanol=19:1 to 10:1). Yield: 78% of theory of light beige solid, C28H29N5O3S (515.63) Rf value: 0.19 (silica gel; methylene chloride/ethanol=4:1) ##EQU92##

reactant | 1-methyl-2-[(4-cyanophenyl)methylthio]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide | 3.0 mMol, 1.5 g | C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)SCC2=CC=C(C=C2)C#N)C)C=C1)CCC(=O)OCC | C28H26N4O3S
reactant | hydrogen chloride | Cl | ClH
reactant | ammonium carbonate | 10.5 mMol, 1.0 g | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 1-Methyl-2-[(4-amidinophenyl)methylthio]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride | Yield: 78% | Cl.C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)SCC2=CC=C(C=C2)C(N)=N)C)C=C1)CCC(=O)OCC | InChI=1S/C28H29N5O3S.ClH/c1-3-36-25(34)15-16-33(22-7-5-4-6-8-22)27(35)21-13-14-24-23(17-21)31-28(32(24)2)37-18-19-9-11-20(12-10-19)26(29)30;/h4-14,17H,3,15-16,18H2,1-2H3,(H3,29,30);1H
